Multiplexador

****** Dispositivos Lógicos ******

.include ../include.cir

****** HGSPICE ******

.option measform = 3
.option post = 0

****** Circuito ******

* Declarando o circuito
Mp0 vdd a na vdd PMOS_BULK w=140n l=32n
Mn0 na a gnd gnd NMOS_BULK w=70n l=32n

Mp1 vdd b nb vdd PMOS_BULK w=140n l=32n
Mn1 nb b gnd gnd NMOS_BULK w=70n l=32n

Mp2 vdd select nsel vdd PMOS_BULK w=140n l=32n
Mn2 nsel select gnd gnd NMOS_BULK w=70n l=32n

Mp3 vdd select n4 vdd PMOS_BULK w=280n l=32n
Mp4 n4 na out vdd PMOS_BULK w=280n l=32n
Mp5 vdd nsel n5 vdd PMOS_BULK w=280n l=32n
Mp6 n5 nb out vdd PMOS_BULK w=280n l=32n

Mn3 out na n6 gnd NMOS_BULK w=140n l=32n
Mn4 n6 nb gnd gnd NMOS_BULK w=140n l=32n
Mn5 out select n6 gnd NMOS_BULK w=140n l=32n
Mn6 n6 nsel gnd gnd NMOS_BULK w=140n l=32n


* CONECTANDO AS CARGAS DE ENTRADA
* ENTRADA inA
MpC1E1 vdd inA a2 vdd PMOS_BULK w=140n L=32n
MnC1E1 a2 inA gnd gnd NMOS_BULK w=70n L=32n

MpC2E1 vdd a2 a vdd PMOS_BULK w=140n L=32n
MnC2E1 a a2 gnd gnd NMOS_BULK w=70n L=32n

* ENTRADA inB
MpC1E2 vdd inB b2 vdd PMOS_BULK w=140n L=32n
MnC1E2 b2 inB gnd gnd NMOS_BULK w=70n L=32n

MpC2E2 vdd b2 b vdd PMOS_BULK w=140n L=32n
MnC2E2 b b2 gnd gnd NMOS_BULK w=70n L=32n

* ENTRADA inSel
MpC1E3 vdd inSel sel2 vdd PMOS_BULK w=140n L=32n
MnC1E3 sel2 inSel gnd gnd NMOS_BULK w=70n L=32n

MpC2E3 vdd sel2 select vdd PMOS_BULK w=140n L=32n
MnC2E3 select sel2 gnd gnd NMOS_BULK w=70n L=32n

* CONECTANDO AS CARGAS DE SAÍDA (SC1 E SC2)
Mpcs1 vdd out sc1 vdd PMOS_BULK w=560n L=32n
Mncs1 sc1 out gnd gnd NMOS_BULK w=280n L=32n

Mpcs2 vdd sc1 sc2 vdd PMOS_BULK w=560n L=32n
Mncs2 sc2 sc1 gnd gnd NMOS_BULK w=280n L=32n

************
.end